US06043365
A solution of 546 g of 3-[2-(2-fluorophenyl)-1-oxoethyl]-4(R)-phenyl-2-oxazolidinone in 2,180 mL of peroxide-free tetrahydrofuran is cooled to an internal temperature of -5 to -8° C. A solution of 1,773 mL of lithium hexamethyldisilazide in tetrahydrofuran (1M) is added over a period of 55 minutes, while maintaining an internal temperature of 0 to -5° C. The solution is stirred at an internal temperature of 0 to -5° C. for 1 hour and then cooled to an internal temperature of -20° C. 150 mL of Bromoacetonitrile is added over a period of 40 minutes, while maintaining an internal temperature of -15 to -20° C. The reaction mixture is stirred at an internal temperature of -15 to -20° C. for 4.5 hours and added to a solution of 478 g of NaCl in 2,164 mL of water and 214 g of concentrated HCl cooled to an internal temperature of 0 to 5° C., over a period of 20 minutes, while maintaining the internal temperature below 9° C. After addition of 500 mL of tetrahydrofuran, the slurry is stirred for 15 minutes at an internal temperature of 5 to 8° C., and then warmed to room temperature (17 to 19° C.) over a period of 30 minutes. The organic layer is separated and washed with a solution of 632 g of NaCl in 2,180 mL of water. The slurry is stirred for 15 minutes, the organic layer is separated and concentrated under reduced pressure (20 mm Hg; bath temperature 45° C.) to a final volume of 1.4-1.6L. 2,500 mL of t-Butyl methyl ether is added and the slurry is vigorously stirred for 1 hour at room temperature (18 to 20° C.). The solid is collected and washed with 2×150 mL of t-butyl methyl ether and dried at 45 to 50° C. (20 mm Hg) for 20 hours to obtain β-(R)-(2-fluorophenyl)-γ,2-dioxo-4(R)-phenyl-3-oxazolidinebutyronitrile as an off-white crystalline solid.

reactant | 3-[2-(2-fluorophenyl)-1-oxoethyl]-4(R)-phenyl-2-oxazolidinone | 546 g | FC1=C(C=CC=C1)CC(=O)N1C(OC[C@H]1C1=CC=CC=C1)=O | C17H14FNO3
reactant | lithium hexamethyldisilazide | 1,773 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | Bromoacetonitrile | 150 mL | BrCC#N | C2H2BrN
reactant | NaCl | 478 g | [Na+].[Cl-]
reactant | HCl | 214 g | Cl | ClH
solvent | tetrahydrofuran | 1M | O1CCCC1 | C4H8O
solvent | water | 2,164 mL | O | H2O
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | β-(R)-(2-fluorophenyl)-γ,2-dioxo-4(R)-phenyl-3-oxazolidinebutyronitrile | FC1=C(C=CC=C1)[C@@H](CC#N)C(N1C(OC[C@H]1C1=CC=CC=C1)=O)=O | C19H15FN2O3
